US07638548B2
Preparation of intermediate E/Z-6-chloro-3-(1-pyridin-2-yl-methylidene)-1,3-dihydro-indol-2-one
In a manner similar to the method described in example 1, 6-chlorooxindole (4.12 g, 24.7 mmol) (Avocado) and pyridine-2-carbaldehyde (2.96 g, 24.7 mmol) (Aldrich) in isopropanol to give a mixture of E/Z-6-chloro-3-pyridi-2-ylmethene-1,3-dihydro-indol-2-one as a bright yellow solid (Yield 6.0 g, 94.6%) and used for the next step without further purification.

reactant | 6-chlorooxindole | 24.7 mmol, 4.12 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyridine-2-carbaldehyde | 24.7 mmol, 2.96 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | isopropanol | C(C)(C)O | C3H8O
product | Z-6-chloro-3-(1-pyridin-2-yl-methylidene)-1,3-dihydro-indol-2-one | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=NC=CC=C1 | C14H9ClN2O
